US20010056105A1
[4-(5,5,8,8-Tetramethyl-5,6,7,8-tetra-hydro-2-naphthylselanylethynyl)phenyl]methanol
A 1M solution of diisobutylaluminium hydride in toluene (4 ml, 4 mmol) is added dropwise, at 0° C., to a solution of methyl 4-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthylselanylethynyl)benzoate obtained according to Example 4 (750 mg, 1.8 mmol), in toluene (20 ml). The solution is stirred for 4 h at 0° C. and is then treated with a double potassium sodium tartrate solution, filtered and taken up in a mixture of ethyl ether and water. The organic phase is washed with water, dried over magnesium sulphate and concentrated on a rotary evaporator under vacuum at 40° C. 418 mg (60%) of a colourless oil are obtained.

reactant | diisobutylaluminium hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | methyl 4-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthylselanylethynyl)benzoate | CC1(C=2C=CC(=CC2C(CC1)(C)C)[Se]C#CC1=CC=C(C(=O)OC)C=C1)C | C24H26O2Se
reactant | potassium sodium tartrate | C(=O)([O-])C(O)C(O)C(=O)[O-].[Na+].[K+]
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 4 mmol, 4 ml | C1(=CC=CC=C1)C | C7H8
product | [4-(5,5,8,8-Tetramethyl-5,6,7,8-tetra-hydro-2-naphthylselanylethynyl)phenyl]methanol | 418 mg, 60% | CC1(C=2C=CC(=CC2C(CC1)(C)C)[Se]C#CC1=CC=C(C=C1)CO)C | C23H26OSe
